US04897105
2-Ethoxycarbonylbenzenesulfonamide
A solution of 3.5 g of ethyl chloroformate in 10 ml of anhydrous acetonitrile is dropwise added to a solution of 5.5 g of 2-aminobenzenesulfonamide and 2.5 g of pyridine in 80 ml of anhydrous acetonitrile at room temperature during 2 hours. After stirring at room temperature, the mixture is poured into ice water and acidified with 100 ml of 2N-hydrochloric acid solution. The mixture is extracted with ethyl acetate twice, washed with an aqueous saturated sodium hydrogen carbonate and then with a saturated brine, and dried over anhydrous sodium sulfate. Then the mixture is concentrated under reduced pressure. The residue is crystallized from chloroform to give 6.6 g of the title compound.

reactant | ethyl chloroformate | 3.5 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-aminobenzenesulfonamide | 5.5 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | pyridine | 2.5 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 2-Ethoxycarbonylbenzenesulfonamide | 6.6 g | C(C)OC(=O)C1=C(C=CC=C1)S(=O)(=O)N | C9H11NO4S
